US08492395B2
A mixture of 2-amino-4-fluorobenzoic acid (2.5 g, 16 mmol) and CDI (2.4 g, 15 mmol) in acetonitrile (30 mL) was stirred at room temperature for 1.5 hours. To the suspension, was added 3-amino-piperidine-2,6-dione hydrogen chloride (2.4 g, 15 mmol) and sodium hydrogen carbonate (1.6 g, 19 mmol), and the mixture was heated at 50° C. for 21 hours. The suspension was cooled to room temperature for 1 hour. The suspension was filtered and washed with acetonitrile (5 mL) and water (2×20 mL). The solid was stirred in methanol (15 mL) overnight. The suspension was filtered and washed with methanol (15 mL) to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-fluorobenzamide as an off-white solid (1.9 g, 45% yield): 1H NMR (DMSO-d6) δ 1.91-1.96 (m, 1H, CH—H), 2.04-2.18 (m, 1H, CHH), 2.50-2.56 (m, 1H, CHH), 2.73-2.85 (m, 1H, CHH), 4.67-4.76 (m, 1H, NCH), 6.35 (dt, J=2, 9 Hz, 1H, Ar), 6.48 (dd, J=2, 12 Hz, 1H, Ar), 6.76 (brs, 2H, NH), 7.58 (dd; J=7, 8 Hz, 1H, Ar), 8.50 (d, J=8 Hz, 1H, NH), 10.84 (s, 1H, NH); 13C NMR (DMSO-d6) δ 24.06, 30.91, 48.98, 101.30 (d, JC-F=23 Hz), 101.60 (d, JC-F=22 Hz), 110.60, 130.66 (d, JC-F=11 Hz), 152.16 (d, JC-F=12 Hz), 164.46 (d, JC-F=246 Hz), 167.80, 172.30, 172.94.

reactant | 2-amino-4-fluorobenzoic acid | 16 mmol, 2.5 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | CDI | 15 mmol, 2.4 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 15 mmol, 2.4 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium hydrogen carbonate | 19 mmol, 1.6 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-fluorobenzamide | 1.9 g, 45% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=CC(=C1)F | C12H12FN3O3
